US04383945
A solution of methyl [(4R)-2-oxo-4-(1,2,4-trioxolan-3-ylmethyl)azetidin-1-yl]glyoxylate (320 mg) and dimethyl sulfide (2 ml) in a mixture of dichloromethane (9 ml) and methanol (10 ml) was stirred at 5° C. for 6 hours and at room temperature for 15 hours. The mixture was then heated at 50° for 4 hours and evaporated to give methyl [(4R)-2-oxo-4-(2-oxoethyl)-azetidin-1-yl]glyoxylate.

reactant | methyl [(4R)-2-oxo-4-(1,2,4-trioxolan-3-ylmethyl)azetidin-1-yl]glyoxylate | 320 mg | O=C1N([C@@H](C1)CC1OOCO1)C(C(=O)OC)=O | C9H11NO7
reactant | dimethyl sulfide | 2 ml | CSC | C2H6S
solvent | dichloromethane | 9 ml | ClCCl | CH2Cl2
solvent | methanol | 10 ml | CO | CH4O
product | methyl [(4R)-2-oxo-4-(2-oxoethyl)-azetidin-1-yl]glyoxylate | O=C1N([C@@H](C1)CC=O)C(C(=O)OC)=O | C8H9NO5
